US08664257B2
Step 1: Methyl 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylate
Potassium carbonate (27.8 g, 201 mmol) and water (3.62 g, 201 mmol) were added to a suspension of methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate (31.6 g, 134 mmol) in methyl isobutyl ketone (323 ml) at room temperature. Then dimethyl sulfate (16.9 g, 134 mmol) was added slowly and the mixture was stirred for 2.5 h. Water was added and the phases were separated. The organic phase was evaporated to give 27.4 g of the title compound as a white solid.

reactant | Potassium carbonate | 201 mmol, 27.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 201 mmol, 3.62 g | O | H2O
reactant | methyl 1-(2-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylate | 134 mmol, 31.6 g | FC1=C(C=CC=C1)N1N=C(C=C1O)C(=O)OC | C11H9FN2O3
reactant | dimethyl sulfate | 134 mmol, 16.9 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methyl isobutyl ketone | 323 ml | C(C(C)C)C(=O)C | C6H12O
product | Methyl 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylate | 27.4 g | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)OC | C12H11FN2O3
